US04963566
To a mixture of 2-hydroxymethylaniline (25 g), triethylamine (32 ml) and tetrahydrofuran (250 ml) was introduced phosgene generated from trichloromethyl chloroformate (12.2 ml) and active carbon at room temperature with stirring. After stirring for 1 hour at room temperature, the reaction mixture was filtered off and the filtrate was concentrated. The resulting residue was recrystallized from diethyl ether-n-hexane to give 4H-1,2-dihydro-2-oxo-[3,1]benzoxazine (22.3 g).

reactant | 2-hydroxymethylaniline | 25 g | OCC1=C(N)C=CC=C1 | C7H9NO
reactant | triethylamine | 32 ml | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | trichloromethyl chloroformate | 12.2 ml | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 1,2-dihydro-2-oxo-[3,1]benzoxazine | 22.3 g | O=C1NC2=C(CO1)C=CC=C2 | C8H7NO2
